US09061978B1
The second method relates to a process for the direct sulfonation of ethanol with gaseous sulfur trioxide. A two stage process is described by Breslow et al (J. Am. Chem. Soc., 1954, Vol 76, pp 5361-5363). First, ethanol is reacted with the first mole of sulfur trioxide at a lower temperature of 0-5° C., then with the second mole of sulfur trioxide at a higher temperature of 50-70° C. Ethionic acid is obtained as a viscous, pale amber liquid. This two stage process is difficult to implement on an industrial scale, since the reaction heat from the exothermic sulfonation is inherently difficult to remove in the first stage at a temperature of 0-5° C.

reactant | sulfur trioxide | S(=O)(=O)=O | O3S
reactant | ethanol | C(C)O | C2H6O
product | Ethionic acid | S(=O)(=O)(O)CCS(=O)(=O)O | C2H6O6S2
